US07208495B2
(5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-yl) methanol
Borane THF complex (THF solution 1.0M, 20.0 mL, 20.0 mmol) was added to a solution of 4-(4-methoxyphenyl)-1-(3-methylene-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (2.0 g, 5.10 mmol) obtained in Reference Example 27 in THF (20 ml) with ice cooling under argon atmosphere and the mixture was stirred for 1 hour at room temperature. The mixture was diluted with water (2.0 mL) and stirred until hydrogen was not generated. To the resulting mixture was added 1N sodium hydroxide (5.0 mL) and 30% hydrogen peroxide water (2.0 mL), and the mixture was stirred for 1 hour at 50° C. The resulting mixture was diluted with water and extracted with ethyl acetate. The organic extract was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified using silica gel column chromatography (hexane/ethyl acetate=4/1) to obtain 1.87 g (yield 89%) of the title compound via recrystallization (ethyl acetate-hexane). mp. 140–141° C.

reactant | Borane THF | 20.0 mmol, 1.0M, 20.0 mL | B.C1CCOC1
reactant | 4-(4-methoxyphenyl)-1-(3-methylene-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 5.10 mmol, 2.0 g | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)=C)C1C)C)C | C25H32N2O2
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 1N, 5.0 mL | [OH-].[Na+]
reactant | hydrogen peroxide water | 2.0 mL | O.OO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 2.0 mL | O | H2O
product | (5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-yl) methanol | 1.87 g, yield 89% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)CO)C1C)C)C | C25H34N2O3
